US04147693
98.3 pts. by wt. of 2-methylfuran-5-aldehyde ar added to a solution of 1-amino-2-oxo-imidazolidine hydrochloride in 1,000 pts. by vol. of water which has been brought to pH 4.5 with sodium hydroxide solution and the mixture is stirred overnight. The precipitae is filtered off, washed with water and recrystallised from ethanol. 126 pts. by wt. of 1-(5-methylfurylideneamino)-2-oxo-imidazolidine of melting point 194°-6° C. are obtained.

reactant | 2-methylfuran-5-aldehyde | CC=1OC(=CC1)C=O | C6H6O2
reactant | 1-amino-2-oxo-imidazolidine hydrochloride | Cl.NN1C(NCC1)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(5-methylfurylideneamino)-2-oxo-imidazolidine | CC1=CCC(O1)=NN1C(NCC1)=O | C8H11N3O2
